US06194406B1
4-(1-Allyl-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt
Combine 1-(t-butoxycarbonyl)-4-(1-allyl-1H-benzimidazol-2-yl)[1,4]diazepane (0.89 g, 2.5 mmol), aqueous hydriodic acid (10 mL, 57%), and ethanol (10 mL). Heat to reflux. After 1 hour, cool to ambient temperature, pour the reaction mixture into diethyl ether (250 mL), and stir to give a solid. After 1 hour, collect the solid by filtration, rinse with diethyl ether, and dry in vacuo to give the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1-allyl-1H-benzimidazol-2-yl)[1,4]diazepane | 2.5 mmol, 0.89 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CC=C)C=CC=C2 | C20H28N4O2
reactant | hydriodic acid | 10 mL | I | HI
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | 4-(1-Allyl-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt | I.C(C=C)N1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C15H20N4.HI/c1-2-10-19-14-7-4-3-6-13(14)17-15(19)18-11-5-8-16-9-12-18;/h2-4,6-7,16H,1,5,8-12H2;1H
